US04370340
To a solution of ammonium thiocyanate (30.2 g) in anhydrous acetone (660 ml) was added dropwise benzoyl chloride (47.6 g) with stirring at 50° C. After refluxing for 1.5 hours, the mixture was cooled to ambient temperature. To the mixture containing benzoyl isothiocyanate was added dropwise a solution of 2-phenoxyaniline (47.6 g) in anhydrous acetone (300 ml). The reaction mixture was refluxed with stirring for 1.5 hours and then concentrated under reduced pressure to give crystals, which were washed twice with water and dried to give crystalline 1-(2-phenoxyphenyl)-3-benzoylthiourea.

reactant | ammonium thiocyanate | 30.2 g | [S-]C#N.[NH4+]
reactant | benzoyl chloride | 47.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 2-phenoxyaniline | 47.6 g | O(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C12H11NO
solvent | acetone | 660 ml | CC(=O)C | C3H6O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 1-(2-phenoxyphenyl)-3-benzoylthiourea | O(C1=CC=CC=C1)C1=C(C=CC=C1)NC(=S)NC(C1=CC=CC=C1)=O | C20H16N2O2S
